US08710261B2
Step 1: Synthesis of tert-butyl 5-biphenyl-4-yl-3-oxopentanoate
A solution of tert-butyl acetoacetate (7.2 g) in tetrahydrofuran (80 ml) was added to a stirred solution of sodium hydride (1.33 g) in tetrahydrofuran (60 ml) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred for 10 minutes followed by the addition of n-butyl lithium (23 ml, 2.5 M solution in hexane) dropwise over 10 minutes. The resulting reaction mixture was stirred for 10 minutes. A solution of 4-(bromomethyl) biphenyl (12.5 g) in tetrahydrofuran (60 ml) was added over 10 minutes and the resulting solution was stirred at 0° C. for approximately 2 hours. To resulting mixture was added hydrochloric acid (6 M, 15 ml) followed by extracting the mixture with diethyl ether. The organic layers were combined, washed with water and brine and dried over anhydrous sodium sulphate. The solvent was evaporated under reduced pressure and the residue thus obtained was purified by silica gel column chromatography using 8% ethyl acetate-hexane as eluant to furnish the title compound (7.5 g).

reactant | tert-butyl acetoacetate | 7.2 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | sodium hydride | 1.33 g | [H-].[Na+]
reactant | n-butyl lithium | 2.5 M, 23 ml | C(CCC)[Li]
reactant | 4-(bromomethyl) biphenyl | 12.5 g | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | hydrochloric acid | 6 M, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | tert-butyl 5-biphenyl-4-yl-3-oxopentanoate | 7.5 g | C1(=CC=C(C=C1)CCC(CC(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C21H24O3
